US08084448B2
D. Methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate
To an ice cooled solution of chlorosulfonyl isocyanate (2.55 g, 18 mmol) in methylene chloride (50 mL) is added dropwise a solution of t-butanol (1.33 g, 18 mmol) in methylene chloride (5 mL). The mixture is allowed to wart to RT, stirred for 15 min then re-chilled to 0° C. To this is added dropwise a solution of [3-benzyloxy-4-(methoxycarbonylmethylamino)-phenoxy]-acetic acid 2-trimethylsilanylethyl ester (5.35 g, 12 mmol) and triethylamine (2.07 g, 20.4 mmol) in methylene chloride (15 mL) and the mixture is stirred at RT for 2 h. The mixture is washed with water and the organic phase is dried over NaSO4. The solvent is removed under reduced pressure and the residue is purified by column chromatography to using EtOAc/hexane (3:7) as eluent to give the title compound.

reactant | chlorosulfonyl isocyanate | 18 mmol, 2.55 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 18 mmol, 1.33 g | C(C)(C)(C)O | C4H10O
reactant | [3-benzyloxy-4-(methoxycarbonylmethylamino)-phenoxy]-acetic acid 2-trimethylsilanylethyl ester | 12 mmol, 5.35 g | C[Si](CCOC(COC1=CC(=C(C=C1)NCC(=O)OC)OCC1=CC=CC=C1)=O)(C)C | C23H31NO6Si
reactant | triethylamine | 20.4 mmol, 2.07 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | Methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC(OCC[Si](C)(C)C)=O)N(CC(=O)OC)S(=O)(=O)NC(=O)OC(C)(C)C | C28H40N2O10SSi
